US05561030
3-Hexylthiophene was synthesized by coupling the Grignard reagent of 3-bromothiophene with 1-bromohexane using bis(1,3-diphenylphosphino)propane nickel(II)chloride as catalyst. The product was purified by fractional distillation under reduced pressure. Polymerization of the monomer was achieved by mixing a 0.1M solution of 3-hexylthiophene in chloroform with a 0.4M chloroform solution of anhydrous ferric chloride. The mixture was stirred for two hours prior to precipitation into acidified methanol. The solid product was filtered, washed with NH4OH, water and methanol. The crude polymer was dissolved in hot dichloromethane and insoluble products were removed by filtration. Low molecular products were removed by cooling the filtrate and adding methanol. The precipitate was filtered and dried in a vacuum oven. The polymer possessed IR bands at 3027, 2930, 2859, 1458, 819, and 725 cm-1. The polymer had a number-average molecular weight of 9300 and a polydispersity index of 2.3.

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.4M | C(Cl)(Cl)Cl | CHCl3
product | 3-Hexylthiophene | C(CCCCC)C1=CSC=C1 | C10H16S
